US05563162
A mixture of benzyl N-(2-methoxyethyl)-N-(3-pyridylmethyl)carbamate (5.4 g) and 10% palladium on carbon (1.0 g) in ethanol (50 ml) was stirred under hydrogen atmosphere for 9 hours. The catalyst was removed by filtration, and the filtrate was concentrated under azeotropic condition with toluene and ethanol. The residue was dissolved in ethanol and diethyl ether was added thereto to give precipitates, which were collected by filtration to give N-(2-methoxyethyl)-N-(3-pyridylmethyl)amine (1.3 g).

reactant | benzyl N-(2-methoxyethyl)-N-(3-pyridylmethyl)carbamate | 5.4 g | COCCN(C(OCC1=CC=CC=C1)=O)CC=1C=NC=CC1 | C17H20N2O3
catalyst | palladium on carbon | 1.0 g | [Pd] | Pd
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | N-(2-methoxyethyl)-N-(3-pyridylmethyl)amine | 1.3 g | COCCNCC=1C=NC=CC1 | C9H14N2O
